US07662958B2
2-(N′-Benzylidene-hydrazino)-benzoic acid (5.0 g, 20.81 mmol) in 1:1 tetrahydrofuran and methanol (50 mL) was reacted with a solution of trimethylsilyl diazomethane in hexanes (2.0M, 12 mL, 25.0 mmol) at 0° C. for 1 hour then stirred at 25° C. for 48 hours. The solvent was removed under vacuum to give methyl 2-[2-benzylidenehydrazino]benzoate as a solid (6.00 g, 100%). 1H NMR (300 MHz, DMSO-d6) δ ppm 3.87 (s, 3H) 6.84 (td, J=7.54, 1.10 Hz, 1H) 7.41 (m, 3H) 7.54 (m, 1H) 7.74 (m, 3H) 7.86 (dd, J=8.09, 1.47 Hz, 1H) 8.21 (s, 1H) 11.02 (s, 1H),

reactant | 2-(N′-Benzylidene-hydrazino)-benzoic acid | 20.81 mmol, 5.0 g | C(C1=CC=CC=C1)=NNC1=C(C(=O)O)C=CC=C1 | C14H12N2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | trimethylsilyl diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 50 mL | CO | CH4O
product | methyl 2-[2-benzylidenehydrazino]benzoate | 6.00 g, 100% | C(C1=CC=CC=C1)=NNC1=C(C(=O)OC)C=CC=C1 | C15H14N2O2
